US20010049371A1
N-Hydroxy-3-(3,4-dimethoxyphenyl)-3-(1-oxoisoindolinyl)propionamide was prepared by the procedure of Example 1 from 3-(3,4-dimethoxyphenyl)-3-(1-oxoisoindolinyl)propanoic acid (5.00 g, 14.7 mmol), carbonyldiimidazole (2.49 g, 15.4 mmol) and hydroxylamine hydrochloride (1.30 g, 19.1 mmol) in tetrahydrofuran (15 mL) to afford N-hydroxy-3-(3,4-dimethoxyphenyl)-3-(1-oxoisoindolinyl)propionamide as a white solid (4.1 g, 79% yield): mp, 188.5-189.5° C.; 1H NMR (DMSO-d6) δ2.82-2.87 (m, 2H, CH2), 3.71 (s, 3H, CH3), 3.74 (s, 3H, CH3), 4.15 (d, J=17.5 Hz, NCHH), 4.63 (d, J=17.5 Hz, 1H, NCHH), 5.74 (t, J=7.7 Hz, 1H, NCR), 6.85-6.93 (m, 3H, Ar), 7.45-7.69 (m, 4H, Ar), 8.83 (br s, 1H, OH), 10.60 (1H, NH); 13C NMR (DMSO-d6) δ35.11, 46.26, 51.25, 55.50, 111.09, 111.76, 119.19, 122.79, 123.43, 127.84, 131.29, 131.91, 132.27, 141.68, 148.27, 148.69, 166.03, 166.84; Anal Calcd for C19H20N2O5: C, 64.04; H, 5.66; N, 7.86. Found: C, 64.08; H, 5.55; N, 7.86.

reactant | 3-(3,4-dimethoxyphenyl)-3-(1-oxoisoindolinyl)propanoic acid | 14.7 mmol, 5.00 g | COC=1C=C(C=CC1OC)C(CC(=O)O)N1C(C2=CC=CC=C2C1)=O | C19H19NO5
reactant | carbonyldiimidazole | 15.4 mmol, 2.49 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | hydroxylamine hydrochloride | 19.1 mmol, 1.30 g | Cl.NO
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | N-hydroxy-3-(3,4-dimethoxyphenyl)-3-(1-oxoisoindolinyl)propionamide | 4.1 g, 79% yield | ONC(CC(N1C(C2=CC=CC=C2C1)=O)C1=CC(=C(C=C1)OC)OC)=O | C19H20N2O5
